US07432276B2
To a solution of 2-hydroxy-5-methoxybenzaldehyde (7.6 g, 50 mmol) in dry N,N-dimethylformamide (100 mL) was added potassium carbonate (10.4 g), followed by 1-bromo-3-methylbut-2-ene (10.0 g, 67 mmol). The mixture was stirred at room temperature for 48 hours and ethyl acetate added. Sufficient 1M hydrochloric acid was cautiously added to neutralize the base, and the organic layer washed with water three times, followed by brine, and dried over magnesium sulfate. The mixture was filtered, and solvent removed from the filtrate under reduced pressure, to provide 5-methoxy-2-(3-methylbut-2-enyloxy)benzaldehyde.

reactant | 2-hydroxy-5-methoxybenzaldehyde | 50 mmol, 7.6 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methylbut-2-ene | 67 mmol, 10.0 g | BrCC=C(C)C | C5H9Br
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-2-(3-methylbut-2-enyloxy)benzaldehyde | COC=1C=CC(=C(C=O)C1)OCC=C(C)C | C13H16O3
